US07429660B2
2- (2-Bromo-phenylsulfanyl) -5-nitro-benzenesulfinic acid
To a solution of NaOH (80.18 g, 2.004 mol) in water (600 ml sonicated and degassed) was added 2-bromothiophenol (108.23 ml, 1.002 mol) and 2-chloro-5-nitro-benzenesulfinic acid (222.11 g, 1.002 mol). The mixture was stirred and heated at 125° C. for 19 hours. The reaction was cooled down at 0° C., and concentrated HCl added dropwise from a dropping funnel while stirring until pH<1. The precipitate formed was filtered, dried in a desiccators overnight and was used without any further purification (417.77 g). m/z (LC-MS, ESP), RT=3.51 min, (M−−1)=372-374, (1:1, bromine isotope ratio present).

reactant | NaOH | 2.004 mol, 80.18 g | [OH-].[Na+]
reactant | 2-bromothiophenol | 1.002 mol, 108.23 ml | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 2-chloro-5-nitro-benzenesulfinic acid | 1.002 mol, 222.11 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)O | C6H4ClNO4S
reactant | HCl | Cl | ClH
solvent | water | 600 ml | O | H2O
product | 2- (2-Bromo-phenylsulfanyl) -5-nitro-benzenesulfinic acid | BrC1=C(C=CC=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)O | C12H8BrNO4S2
